US07888347B2
1,1-Dimethylethyl 2-[4-(2-oxo-1,3-oxazolidin-3-yl)phenyl]-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate (D26)
A mixture of 1,1-dimethylethyl 2-(4-bromophenyl)-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate (150 mg, 0.38 mmol) (may be prepared as described in Description 12), 1,3-oxazolidin-2-one (100 mg, 1.15 mmol), tris(dibenzylideneacetone)dipalladium(0) (18.0 mg, 0.02 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (35.0 mg, 0.06 mmol) and cesium carbonate (195 mg, 0.60 mmol) in dioxan (4 ml) was heated at reflux under argon for 3 hours and then in the microwave for 2 hours at 150° C. The mixture was diluted with ethyl acetate, filtered through celite and washed with 2×20 ml of water. The combined ethyl acetate layers were dried over magnesium sulphate, filtered and evaporated. The crude product was purified by column chromatography eluting with a mixture of ethyl acetate/pentane (50-100%) to afford the product (D26); MS (ES+) m/e 399 [M+H]+.

reactant | 1,1-dimethylethyl 2-(4-bromophenyl)-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate | 0.38 mmol, 150 mg | BrC1=CC=C(C=C1)N1N=C2CCN(CCC2=C1)C(=O)OC(C)(C)C | C18H22BrN3O2
reactant | 1,3-oxazolidin-2-one | 1.15 mmol, 100 mg | O1C(NCC1)=O | C3H5NO2
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.06 mmol, 35.0 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 0.60 mmol, 195 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxan | 4 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.02 mmol, 18.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,1-Dimethylethyl 2-[4-(2-oxo-1,3-oxazolidin-3-yl)phenyl]-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate | O=C1OCCN1C1=CC=C(C=C1)N1N=C2CCN(CCC2=C1)C(=O)OC(C)(C)C | C21H26N4O4
